US04883789
Part B: Synthesis of (4-methoxyphenyl)[3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylsilane
To a mixture of 1.14 g (0.005 mole) of 3-(4-fluoro-3-phenoxyphenyl)-1-propene and 0.004 g (0.00001 mole) of hydrogen hexachloroplatinate hydrate in 1 mL of tetrahydrofuran under nitrogen was added slowly 0.83 g (0.005 mole) of (4-methoxyphenyl)dimethylsilane. After completion of addition the reaction mixture was diluted with a mixture of petroleum ether and ethyl acetate. This solution was treated with activated carbon and then was filtered through a short column of silica gel. The solvent was evaporated under reduced pressure, leaving a residue. This residue was heated at 150° C. at 0.1 mm of Hg to remove impurities. The pot residue was a light brown liquid weighing 1.25 g. The ir and proton nmr spectra confirmed that this residue was (4-methoxyphenyl)[3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylsilane, compound 37 of Table 1.

reactant | 3-(4-fluoro-3-phenoxyphenyl)-1-propene | 0.005 mole, 1.14 g | FC1=C(C=C(C=C1)CC=C)OC1=CC=CC=C1 | C15H13FO
reactant | (4-methoxyphenyl)dimethylsilane | 0.005 mole, 0.83 g | COC1=CC=C(C=C1)[SiH](C)C | C9H14OSi
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-methoxyphenyl)[3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylsilane | COC1=CC=C(C=C1)[Si](C)(C)CCCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C24H27FO2Si
